US03991185
Preparation of 1,2-Dihydro-1-(2-deoxy-3,5-di-O-acetyl-α-D-erythro-pentofuranosyl)-2-oxopyrazine 4-oxide
A solution of 200 mg of 1,2-dihydro-1-(2deoxy-β-D-erythro-pentofuranosyl)-2-oxopyrazine 4-oxide (Berkowitz et al., Journal of Medicinal Chemistry, 1973, Volume 16, No. 2., pages 183-184) in 4 ml. of pyridine was treated at room temperature with 0.2 ml. of acetic anhydride. After standing overnight, the reaction mixture was treated in the cold with water, extracted into methylene chloride and washed with dilute HCl and 5% NaHCO3. Removal of the dried solvent left the diacetate which was purified by column chromatography on silica gel.

reactant | 1,2-dihydro-1-(2deoxy-β-D-erythro-pentofuranosyl)-2-oxopyrazine 4-oxide | 200 mg | [C@@H]1(C[C@H](O)[C@H](O1)CO)N1C(C=[N+](C=C1)[O-])=O | C9H12N2O5
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | water | O | H2O
product | 1,2-Dihydro-1-(2-deoxy-3,5-di-O-acetyl-α-D-erythro-pentofuranosyl)-2-oxopyrazine 4-oxide | C(C)(=O)O[C@H]1C[C@H](O[C@@H]1COC(C)=O)N1C(C=[N+](C=C1)[O-])=O | C13H16N2O7
